US06201006B1
e) Synthesis of 1-ethyl-2-(hydroxymethyl)indole-6-carbonitrile
In a 1 l flask, 26.27 g of ethyl 6-cyano-1-ethylindole-2-carboxylate and 0.91 g of sodium bicarbonate were dissolved with 300 ml of tetrahydrofuran and then cooled to 0° C. To this mixture was added CaI2.H2O and then slowly added NaBH4. The reaction mixture was stirred while slowly warming from 0° C. to room temperature with stirring. After examined by TLC, ice and a catalytic amount of acetic acid were added thereto at 0° C. and the mixture was stirred. The reaction solution was evaporated to remove tetrahydrofuran, and the residue was diluted with water and extracted three times with ethyl acetate. The organic extracts were combined, dried over MgSO4 and then evaporated. The residue was purified with silica gel column chromatography [eluent: ethyl acetate/n-hexane(1:2)]. The fractions containing the desired product were combined and then evaporated to obtain 18.2 g of the title compound as a white solid.

reactant | sodium bicarbonate | 0.91 g | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | CaI2.H2O | [I-].[I-].[Ca+2].O
reactant | NaBH4 | [BH4-].[Na+]
reactant | ethyl 6-cyano-1-ethylindole-2-carboxylate | 26.27 g | C(#N)C1=CC=C2C=C(N(C2=C1)CC)C(=O)OCC | C14H14N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-2-(hydroxymethyl)indole-6-carbonitrile | 18.2 g | C(C)N1C(=CC2=CC=C(C=C12)C#N)CO | C12H12N2O
